US07582123B2
Synthesis of 4-{[(1Z)-3-chloro-4-oxocyclohexa-2,5-dien-1-ylidene]amino}-1,5-dimethyl-2-phenyl-1,2-dihydro-3H-pyrazol-3-one
10 mmol of 4-amino-1,5-dimethyl-2-phenyl-1,2-dihydro-3H-pyrazol-3-one was dissolved in 30 ml of water. This solution was admixed with 10 mmol of 2-chlorophenol in solution in 30 ml of 2-propanol, 3 ml of 20% aqueous ammonia and 22 mmol of potassium ferricyanide at a temperature ranging from 5 to 10° C.

reactant | 4-amino-1,5-dimethyl-2-phenyl-1,2-dihydro-3H-pyrazol-3-one | 10 mmol | NC=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C11H13N3O
reactant | 2-chlorophenol | 10 mmol | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | ammonia | 3 ml | N | H3N
solvent | water | 30 ml | O | H2O
solvent | 2-propanol | 30 ml | CC(C)O | C3H8O
catalyst | potassium ferricyanide | 22 mmol | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 4-{[(1Z)-3-chloro-4-oxocyclohexa-2,5-dien-1-ylidene]amino}-1,5-dimethyl-2-phenyl-1,2-dihydro-3H-pyrazol-3-one | ClC1=C\C(\C=CC1=O)=N/C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C17H14ClN3O2
